### PR TITLE
[Merged by Bors] - feat(RingTheory/Perfectoid): define the untilt map and generalize pretilt

### PR DESCRIPTION
**Pull request by jjdishere**
In this PR, 
1. we generalize the definition of the pretilt and
2. define the untilt function from the pretilt of a p-adically complete ring to the ring itself.

The results about pretilt and tilt are kept unchanged as much as possible. They will be generalized in future PRs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Perfection.lean [hunk 1]
```diff
@@ -317,64 +317,90 @@ theorem map_eq_map (φ : R →+* S) : map p (of p R) (of p S) φ = Perfection.ma
...
 
-section Perfectoid
+section ModP
 
-variable (K : Type u₁) [Field K] (v : Valuation K ℝ≥0)
-variable (O : Type u₂) [CommRing O] [Algebra O K] (hv : v.Integers O)
-variable (p : ℕ)
+variable (O : Type u₂) [CommRing O] (p : ℕ)
 
 -- Porting note: Specified all arguments explicitly
```
Comment (jjdishere) [inline Mathlib/RingTheory/Perfection.lean:324]:
```suggestion
```

File: Mathlib/RingTheory/Perfection.lean [hunk 2]
```diff
@@ -317,64 +317,89 @@ theorem map_eq_map (φ : R →+* S) : map p (of p R) (of p S) φ = Perfection.ma
...
+-- instance commRing' : CommRing (ModP' K v O hv p) :=
+--   Ideal.Quotient.commRing (Ideal.span {(p : O)} : Ideal O)
+
+-- instance charP' [Fact p.Prime] [hvp : Fact (v p ≠ 1)] : CharP (ModP' K v O hv p) p :=
+--   have _ := Fact.mk <| mt hv.one_of_isUnit <| (map_natCast (algebraMap O K) p).symm ▸ hvp.1
+--   ModP.charP O p
+
+-- instance [hp : Fact p.Prime] [Fact (v p ≠ 1)] : Nontrivial (ModP O p) :=
+--   CharP.nontrivial_of_char_ne_one hp.1.ne_one
+
```
Comment (jjdishere) [inline Mathlib/RingTheory/Perfection.lean:364]:
```suggestion
```

File: Mathlib/LinearAlgebra/SModEq.lean [hunk 3]
```diff
@@ -106,6 +106,9 @@ lemma sub (hxy₁ : x₁ ≡ y₁ [SMOD U]) (hxy₂ : x₂ ≡ y₂ [SMOD U]) :
 
 theorem zero : x ≡ 0 [SMOD U] ↔ x ∈ U := by rw [SModEq.def, Submodule.Quotient.eq, sub_zero]
 
+theorem _root_.sub_smodEq_zero : x ≡ y [SMOD U] ↔ x - y ≡ 0 [SMOD U] := by
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/SModEq.lean:109]: Can you switch the LHS with the RHS? The name seems to suggest this direction.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 4]
```diff
@@ -55,6 +55,13 @@ theorem isHausdorff_iff :
     IsHausdorff I M ↔ ∀ x : M, (∀ n : ℕ, x ≡ 0 [SMOD (I ^ n • ⊤ : Submodule R M)]) → x = 0 :=
   ⟨IsHausdorff.haus, fun h => ⟨h⟩⟩
 
+theorem IsHausdorff.eq_iff_smodEq [IsHausdorff I M] {x y : M} :
+    x = y ↔ ∀ n, x ≡ y [SMOD (I ^ n • ⊤ : Submodule R M)] := by
+  refine ⟨fun h _ ↦ h ▸ rfl, fun h ↦ ?_⟩
+  rw [← sub_eq_zero]
+  apply IsHausdorff.haus' (I := I) (x - y)
+  simpa only [SModEq.sub_mem, sub_zero] using h
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:63]: Does `simpa using h` work here? The guideline is not to squeeze if not necessary.

File: Mathlib/RingTheory/Perfection.lean [hunk 5]
```diff
@@ -317,64 +317,73 @@ theorem map_eq_map (φ : R →+* S) : map p (of p R) (of p S) φ = Perfection.ma
...
-variable (O : Type u₂) [CommRing O] [Algebra O K] (hv : v.Integers O)
-variable (p : ℕ)
+variable (O : Type u₂) [CommRing O] (p : ℕ)
 
--- Porting note: Specified all arguments explicitly
 /-- `O/(p)` for `O`, ring of integers of `K`. -/
-@[nolint unusedArguments]
-def ModP (K : Type u₁) [Field K] (v : Valuation K ℝ≥0) (O : Type u₂) [CommRing O] [Algebra O K]
-    (_ : v.Integers O) (p : ℕ) :=
+def ModP :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Perfection.lean:325]: This looks like an improvement to me, but do you know what was the reason for the previous definition?

File: Mathlib/RingTheory/Perfectoid/Untilt.lean [hunk 6]
```diff
@@ -0,0 +1,172 @@
...
+## Tags
+Perfectoid, Tilting equivalence, Untilt
+-/
+
+open Perfection Ideal
+
+noncomputable section
+
+variable {O : Type*} [CommRing O]
+  {p : ℕ} [Fact (Nat.Prime p)] [Fact ¬IsUnit (p : O)]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Perfectoid/Untilt.lean:40]:
```suggestion
variable {O : Type*} [CommRing O] {p : ℕ} [Fact (Nat.Prime p)] [Fact ¬IsUnit (p : O)]
```

File: Mathlib/RingTheory/Perfectoid/Untilt.lean [hunk 7]
```diff
@@ -0,0 +1,172 @@
...
+
+/--
+The auxiliary sequence to define the untilt map. The `(n + 1)`-th term
+is the `p^n`-th powers of arbitrary lifts in `O` of the `n`-th component
+from the perfection of `O/p`.
+-/
+def untiltAux (x : PreTilt O p) (n : ℕ) : O :=
+  match n with
+  | .zero => 1
+  | .succ n =>
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Perfectoid/Untilt.lean:52]:
```suggestion
  | 0 => 1
  | n + 1 =>
```
looks nicer.

File: Mathlib/RingTheory/Perfectoid/Untilt.lean [hunk 8]
```diff
@@ -0,0 +1,172 @@
...
+lemma pow_dvd_untiltAux_sub_untiltAux (x : PreTilt O p) {m n : ℕ} (h : m ≤ n) :
+    (p : O) ^ m ∣ x.untiltAux m - x.untiltAux n := by
+  cases m with
+  | zero => simp [untiltAux]
+  | succ m =>
+    let n' := n.pred
+    have : n = n' + 1 := by simp [n', Nat.sub_add_cancel (n := n) (m := 1) (by linarith)]
+    simp only [this, add_le_add_iff_right, untiltAux] at h ⊢
+    rw [← Nat.sub_add_cancel h, pow_add _ _ m, pow_mul]
+    refine (dvd_sub_pow_of_dvd_sub (R := O) ?_ m)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Perfectoid/Untilt.lean:64]:
```suggestion
    refine (dvd_sub_pow_of_dvd_sub ?_ m)
```

File: Mathlib/RingTheory/Perfectoid/Untilt.lean [hunk 9]
```diff
@@ -0,0 +1,172 @@
...
+    simp only [span_singleton_pow, SModEq.sub_mem, mem_span_singleton]
+    exact pow_dvd_mul_untiltAux_sub_untiltAux_mul (O := O) (p := p) _ _ n
+
+/--
+The composition of the mod `p` map
+with the untilt function equals taking the zeroth component of the perfection.
+-/
+theorem mk_untilt_eq_coeff_zero (x : PreTilt O p) :
+    Ideal.Quotient.mk (Ideal.span {(p : O)}) (x.untilt) = coeff (ModP O p) p 0 x := by
+  simp [untilt]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Perfectoid/Untilt.lean:155]: Nonterminal `simp`.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/SModEq.lean (hunk 3 above)
Comment (jjdishere) [reply Mathlib/LinearAlgebra/SModEq.lean:109]: Thank you for the suggestion! Fixed.

File: Mathlib/RingTheory/Perfection.lean (hunk 5 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Perfection.lean:325]: I'm not sure what the concrete reason is here. All the following sections share the same variables here.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean (hunk 4 above)
Comment (jjdishere) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:63]: I don't think `simpa using h` works here since `SModEq.sub_mem` is not tagged with `@[simp]`. But `simpa [SModEq.sub_mem] using h` works. I'll do this.

File: Mathlib/RingTheory/Perfectoid/Untilt.lean (hunk 9 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Perfectoid/Untilt.lean:154]: Sorry. Fixed!
